US08232390B2
Step 6: 14-cyclohexyl-5-methyl-7,8-dihydroimidazo[4,5,1-jk]indolo[1,2-d][1,4]-benzodiazepine-11-carboxylic acid
Methyl 14-cyclohexyl-5-methyl-7,8-dihydroimidazo[4,5,1-jk]indolo[1,2-d][1,4]benzodiazepine-11-carboxylate was dissolved in a mixture of H2O/MeOH/THF (1/1/1) (0.015 M) and LiOH.H2O added (4.4 eq). The reaction was stirred with heating at 60° C. for 3 h, before being allowed to cool to RT, acidified with 1N HCl (aq). The volatiles were removed in vacuo and the residue purified by RP-HPLC (stationary phase: column WATERS X-TERRA prep. C18, 5 microns. Mobile phase: MeCN/H2O buffered with 0.1% TFA). Fractions containing the pure compound were combined and freeze dried to afford the title compound as a white powder (68%). 1H NMR (400 MHz, DMSO-d6, 300 K) δ 8.30 (s, 1H), 7.99 (d, 1H, J 8.6), 7.79 (d, 1H, J 7.6), 7.68 (d, 1H, J 8.6), 7.67-7.56 (m, 2H), 5.39-5.29 (m, 1H), 4.80-4.72 (m, 1H), 4.38-4.29 (m, 1H), 4.23-4.14 (m, 1H), 3.14-3.06 (m, 1H), 2.73 (s, 3H), 2.19-2.06 (m, 3H), 1.98-1.90 (m, 1H), 1.78-1.72 (m, 2H), 1.55-1.42 (m, 3H), 1.24-1.14 (m, 1H); MS (ES+) m/z 400 (M+H)+.

reactant | Methyl 14-cyclohexyl-5-methyl-7,8-dihydroimidazo[4,5,1-jk]indolo[1,2-d][1,4]benzodiazepine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2CCN3C4=C(C21)C=CC=C4N=C3C)C(=O)OC | C26H27N3O2
reactant | HCl | 1N | Cl | ClH
solvent | H2O MeOH THF | 0.015 M | O.CO.C1CCOC1
solvent | LiOH.H2O | O[Li].O
product | 14-cyclohexyl-5-methyl-7,8-dihydroimidazo[4,5,1-jk]indolo[1,2-d][1,4]-benzodiazepine-11-carboxylic acid | 68% | C1(CCCCC1)C=1C=2C=CC(=CC2N2CCN3C4=C(C21)C=CC=C4N=C3C)C(=O)O | C25H25N3O2
